US04122186
2-(N,N-Diphenylcarbamoyl)-propionohydroxamic acid Code No. CRL 40,438
4.9 g (0.125 gram atom) of sodium in small pieces are added to 50 ml of anhydrous methanol and 2/3 of the sodium ethylate solution thus obtained is used to neutralise a solution of 5.25 g (0.075 mol) of hydroxylamine hydrochloride in 50 ml of anhydrous methanol; 15 g (0.05 mol) of ethyl 2-(N,N-diphenylcarbamoyl)-propionate are then added, after which the remaining one-third of the sodium ethylate solution is added in the cold. The reactants are left in contact overnight at 50° C., the mixture is evaporated to dryness in vacuo, the residue is taken up in ether and the sodium salt is filtered off, dissolved in water and acidified with concentrated HCl. CRl 40,438 is obtained by filtering off, drying and recrystallising from acetonitrile. Melting point: 171°-172° C. Yield: 68%.

reactant | sodium | 4.9 g | [Na] | Na
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.075 mol, 5.25 g | Cl.NO
reactant | ethyl 2-(N,N-diphenylcarbamoyl)-propionate | 0.05 mol, 15 g | C1(=CC=CC=C1)N(C(=O)C(C(=O)OCC)C)C1=CC=CC=C1 | C18H19NO3
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(N,N-Diphenylcarbamoyl)-propionohydroxamic acid | Yield: 68% | C1(=CC=CC=C1)N(C(=O)C(C(=O)NO)C)C1=CC=CC=C1 | C16H16N2O3
